US05612371
A) Preparation of (Z)-2-pivaloylthiomethyl-3-phenylpropenoic acid
The (Z)-2-bromomethyl-3-phenylpropenoic acid described in Example 1 (step A) is reacted with thiopivaloic acid according to the experimental procedure described in Example 1 (step B). Yield: 93% 1H NMR (CDCl3): 9.10 (broad s, 1H); 7.90 (s, 1H); 7.35 (s, 5H); 4.00 (s, 2H); 1.20 (s, 9H)

reactant | (Z)-2-bromomethyl-3-phenylpropenoic acid | BrC\C(\C(=O)O)=C/C1=CC=CC=C1 | C10H9BrO2
reactant | thiopivaloic acid | C(C(C)(C)C)(=S)O | C5H10OS
product | (Z)-2-pivaloylthiomethyl-3-phenylpropenoic acid | Yield: 93% | C(C(C)(C)C)(=O)SC\C(\C(=O)O)=C/C1=CC=CC=C1 | C15H18O3S
